US03996204
Example 1 N-(p-Vinylbenzyl)Aziridine
Anhydrous methanol (200 ml.), anhydrous potassium carbonate (10.0 g.) and ar-vinylbenzyl chloride (approximately 95% para isomer; 0.05 mol.) were charged to a predried reaction vessel equipped with a stirring means and a drying tube. Aziridine (27.0 ml.; 0.5 mol.) was added dropwise to the stirred reaction mixture. Subsequently, the stirred mixture was maintained at room temperature for 24 hours. The work up comprised adding a diatomaceous earth filtering aid to the reaction mixture, filtering out the solids, removing the solvent from the filtrate under reduced pressure and recovering as the pot residue 7.7 g. of crude product as a yellow/orange liquid. The product was purified by distillative techniques under reduced pressure. The product was thus obtained as a water-white liquid boiling at 50°-52°C. at 0.15-0.20 mm. of Hg pressure. Vapor phase chromatography (VPC) of this fraction showed it to contain 85.7% of the desired product. The compound was obtained from the VPC fractionation and its structure confirmed by infrared (IR) analysis, nuclear magnetic resonance (NMR) and elemental analysis.

reactant | potassium carbonate | 10.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | ar-vinylbenzyl chloride | 0.05 mol | C=CC1=CC(=CC=C1)CCl | C9H9Cl
reactant | Aziridine | 0.5 mol, 27.0 ml | N1CC1 | C2H5N
solvent | methanol | 200 ml | CO | CH4O
product | N-(p-Vinylbenzyl)Aziridine | 85.7% | C(=C)C1=CC=C(CN2CC2)C=C1 | C11H13N
